US07888374B2
(2,5-dimethoxylphenyl)acetyl chloride
To a solution of 196 mg (1.00 mmol) of (2,5-dimethoxyphenyl)acetic acid in 3 mL of CH2Cl2 was added 100 μL of oxalyl chloride. The mixture was stirred at ambient temperature for 1 hour then concentrated under reduced pressure to a thick liquid.

reactant | (2,5-dimethoxyphenyl)acetic acid | 1.00 mmol, 196 mg | COC1=C(C=C(C=C1)OC)CC(=O)O | C10H12O4
reactant | oxalyl chloride | 100 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (2,5-dimethoxylphenyl)acetyl chloride | O(C)C1=C(C=C(C=C1)OC)CC(=O)Cl | C10H11ClO3
